US09056859B2
A mixture of methyl 4-bromo-2-cyanobenzoate (230 mg, 0.96 mmol), allyl-tributyl-stannane (381 mg, 1.2 mmol), LiCl (126 mg, 2.87 mmol) and Pd(PPh3)4 (23 mg) in anhydrous toluene was refluxed under N2 overnight. Distilled off the solvent under reduce pressure, the residue was purified with prep-TLC to give the product methyl 2-cyano-4-(prop-2-en-1-yl)benzoate.

reactant | methyl 4-bromo-2-cyanobenzoate | 0.96 mmol, 230 mg | BrC1=CC(=C(C(=O)OC)C=C1)C#N | C9H6BrNO2
reactant | allyl-tributyl-stannane | 1.2 mmol, 381 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 2.87 mmol, 126 mg | [Li+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-cyano-4-(prop-2-en-1-yl)benzoate | C(#N)C1=C(C(=O)OC)C=CC(=C1)CC=C | C12H11NO2
